US07816522B2
After adding 700 mg of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine, 770 mg of 8-methoxychromane-6-carbaldehyde [CAS No. 81258-23-3], 1 g of MS3A and 1.1 ml of trimethylsilyl cyanide to a solution of 250 mg of Yb(OTf)3 in 5 ml of dichloromethane under a nitrogen atmosphere, the mixture was stirred overnight at room temperature. The reaction mixture was filtered through celite, and the celite was washed with 100 ml of ethyl acetate. The organic layer was concentrated under reduced pressure to give a crude product of (8-methoxychroman-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile.

reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine | 700 mg | CC1=NC(=NO1)C1=CC=C(C=C1)N | C9H9N3O
reactant | 8-methoxychromane-6-carbaldehyde | 770 mg | COC=1C=C(C=C2CCCOC12)C=O | C11H12O3
reactant | trimethylsilyl cyanide | 1.1 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | Yb(OTf)3 | 250 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (8-methoxychroman-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | COC=1C=C(C=C2CCCOC12)C(C#N)NC1=CC=C(C=C1)C1=NOC(=N1)C | C21H20N4O3
